US09416132B2
A mixture of 5-chloro-3-(3-chlorophenyl)pyrazolo[1,5-a]pyrimidine (100 mg, 0.379 mmol), 4-aminocyclohexanone (43 mg, 0.379 mmol), and DIEA (0.158 ml, 1.515 mmol) in 2-propanol (3 ml) was irradiated to 150° C. for 14 h in a Biotage microwave. After cooling, the mixture was diluted with saturated aqueous NaHCO3, and extracted three times with EtOAc. The combined extracts were washed with brine, dried over Na2SO4 and concentrated in vacuo. After absorbing on celite, the compound was purified by chromatography (12 g silica, 0-15% methanol/DCM) to give 4-((3-(3-chlorophenyl)pyrazolo[1,5-a]pyrimidin-5-yl)amino)cyclohexanone (30 mg, 24% yield) as a white solid.

reactant | 5-chloro-3-(3-chlorophenyl)pyrazolo[1,5-a]pyrimidine | 0.379 mmol, 100 mg | ClC1=NC=2N(C=C1)N=CC2C2=CC(=CC=C2)Cl | C12H7Cl2N3
reactant | 4-aminocyclohexanone | 0.379 mmol, 43 mg | NC1CCC(CC1)=O | C6H11NO
reactant | DIEA | 1.515 mmol, 0.158 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | 2-propanol | 3 ml | CC(C)O | C3H8O
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | 4-((3-(3-chlorophenyl)pyrazolo[1,5-a]pyrimidin-5-yl)amino)cyclohexanone | 30 mg, 24% yield | ClC=1C=C(C=CC1)C=1C=NN2C1N=C(C=C2)NC2CCC(CC2)=O | C18H17ClN4O
